US04256759
To the solution of 1.6 g of 1,3,5-trimethyl-4-ethoxycarbonyl-β-oxo-2-pyrrolpropionitrile in 30 ml of dry toluene and 0.8 g of anhydrous triethylamine, 0.8 g of phenylisocyanate are added while stirring. The mixture is allowed to stand 10 minues at the steam cone and at room temperature overnight. It is evaporated, the residue taken up in methanol and the solution treated with 2 ml of 5 N hydrochloric acid and 200 ml of water. The crystals formed are collected, washed with water, triturated with methanol-ethanol and recrystallized from methanol, to yield the 1,3,5-trimethyl-4-ethoxycarbonyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile melting at 164°-166°.

reactant | 1,3,5-trimethyl-4-ethoxycarbonyl-β-oxo-2-pyrrolpropionitrile | 1.6 g | CN1C(=C(C(=C1C)C(=O)OCC)C)C(CC#N)=O | C13H16N2O3
reactant | phenylisocyanate | 0.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
product | 1,3,5-trimethyl-4-ethoxycarbonyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile | CN1C(=C(C(=C1C)C(=O)OCC)C)C(C(C#N)C(NC1=CC=CC=C1)=O)=O | C20H21N3O4
